US07332508B2
Step A: 1-Isopropyl-4-cyanopiperidine.
To a solution of 4-cyanopiperidine (5.8 g, 53 mmol, J. Org. Chem. 21, 984-986, 1957) in methanol (30 mL) and THF (130 mL) was added with stirring acetone (7.7 mL) and glacial acetic acid (6.0 mL) followed by portion wise addition of sodium cyanoborohydride (6.6 g, 105 mmol). When addition was complete the mixture was stirred overnight at ambient temperature. The solvent was evaporated and to the residue was added 1N hydrochloric (110 mL) until pH 1. The mixture was washed with diethyl ether (100 mL) and the acidic aqueous phase was saturated with potassium carbonate. The alkaline mixture (pH 10) was extracted with ethyl acetate (2×200 mL). The combined organic extracts were dried (MgSO4) and the solvent was evaporated. This afforded 8.2 g of 1-isopropyl-4-cyanopiperidine. 1H NMR 400 MHz, DMSO-d6) δ 0.96 (d, 6H), 1.63-1.73 (m, 2H), 1.80-1.92 (m, 2H), 2.35-2.44 (m, 2H), 2.58-2.67 (m, 2H), 2.69-2.78 (m, 1H), 2.79-2.87 (m, 1H).

reactant | 4-cyanopiperidine | 53 mmol, 5.8 g | C(#N)C1CCNCC1 | C6H10N2
reactant | acetone | 7.7 mL | CC(=O)C | C3H6O
reactant | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 105 mmol, 6.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 1-Isopropyl-4-cyanopiperidine | C(C)(C)N1CCC(CC1)C#N | C9H16N2
